US07737166B2
2-Amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzoic acid (I-30)
An N,N-dimethylformamide (14 ml) solution of N-iodosuccinimide (1.89 g, 8.4 mmol) was dropwise added to an N,N-dimethylformamide (14 ml) solution of 2-amino-4-fluoro-3-methoxy-6-methylbenzoic acid (I-29) (1.4 g), followed by stirring at room temperature for 2 hours and a half. Water was added to the reaction liquid, followed by extraction three times with ethyl acetate, the organic layer was washed with aqueous saturated sodium thiosulfate solution and saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (2:1) was concentrated under reduced pressure to obtain the entitled compound (1.77 g, 78%) as a brown solid.

reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
reactant | N-iodosuccinimide | 8.4 mmol, 1.89 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
reactant | 2-amino-4-fluoro-3-methoxy-6-methylbenzoic acid | NC1=C(C(=O)O)C(=CC(=C1OC)F)C | C9H10FNO3
solvent | Water | O | H2O
product | 2-Amino-4-fluoro-5-iodo-3-methoxy-6-methylbenzoic acid | 1.77 g, 78% | NC1=C(C(=O)O)C(=C(C(=C1OC)F)I)C | C9H9FINO3
